US09196837B2
The resulting 12,12-dimethyl-10-phenyl-10,12-dihydroindeno[2,1-b]carbazole (7.5 g) and DMF (53 ml) were added to a reaction vessel. N-bromosuccinimide (3.72 g) was added under ice-cooled conditions, and the mixture was stirred for 9 hours and then left for one night. Water (260 ml) was added, and the mixture was subjected to filtration to obtain a brownish white powder of 7-bromo-12,12-dimethyl-10-phenyl-10,12-dihydroindeno[2,1-b]carbazole (8.67 g; yield 94.6%).

reactant | 12,12-dimethyl-10-phenyl-10,12-dihydroindeno[2,1-b]carbazole | 7.5 g | CC1(C2=C(C=C3N=C4C=CC=CC4=C13)C=C1C=CC(C=C12)C1=CC=CC=C1)C | C27H21N
reactant | DMF | 53 ml | CN(C)C=O | C3H7NO
reactant | N-bromosuccinimide | 3.72 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | Water | 260 ml | O | H2O
product | 7-bromo-12,12-dimethyl-10-phenyl-10,12-dihydroindeno[2,1-b]carbazole | 8.67 g, yield 94.6% | BrC1=C2C=CC(C=C2C2=C1C=C1N=C3C=CC=CC3=C1C2(C)C)C2=CC=CC=C2 | C27H20BrN
